US09169195B2
Synthesis of N-methyl-N-(2-propylheptyl)-formamide
A total amount of 846 g (4.81 moles) of N-methyl-N-(2-propylheptyl)-amine was added to a 2 l round bottomed flange flask equipped with a condenser. Formic acid was charged into a dropping funnel in an amount of 223.3 g (4.80 moles) and added drop wise to the round bottomed flange flask over a time period of 1 hour during heating and stirring with a magnetic stirrer. The final temperature was set to 180° C., while the boiling point of the initial reaction mixture was ˜125° C. Water was distilled off and collected in a round bottomed receiver flask and thereby removed from the reaction medium. During the reaction the boiling point of the reaction medium rose continuously. The reaction was performed at atmospheric pressure for a total time of 3.5 hours. Titration of remaining amine was performed to monitor the reaction. When the amine value did not decrease anymore, the remaining unreacted material was removed by gently pulling vacuum to 100 mbar for two hours. The reaction mixture was cooled to 60° C. before breaking the vacuum.

reactant | N-methyl-N-(2-propylheptyl)-amine | 4.81 moles, 846 g | CNCC(CCCCC)CCC | C11H25N
reactant | Formic acid | C(=O)O | CH2O2
product | N-methyl-N-(2-propylheptyl)-formamide | CN(C=O)CC(CCCCC)CCC | C12H25NO
